US06967216B2
Ethyl (E)-3-pyridin-4-ylprop-2-enoate
To a solution of 4-pyridinecarboxaldehyde (67 ml, 700 mmol) and triethyl phosphonacetate (152 ml, 770 mmol) in THF (200 ml) at room temperature was added lithium hydroxide (32.4 g, 770 mmol). After 18 hours ether (500 ml) was added and the solution was washed with sodium hydrogen carbonate, brine and concentrated to give a white solid. Yield 102.1 g (83%). NMR: 8.62 (d, 2H), 7.60 (d, 1H), 7.35 (d, 2H), 6.59 (d, 1H), 4.30 (q, 2H), 1.35 (t, 3H); m/z 178.3.

reactant | 4-pyridinecarboxaldehyde | 700 mmol, 67 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | lithium hydroxide | 770 mmol, 32.4 g | [OH-].[Li+]
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Ethyl (E)-3-pyridin-4-ylprop-2-enoate | N1=CC=C(C=C1)/C=C/C(=O)OCC | C10H11NO2
